US03954811
Five grams (5 g) of 2-(6'-carboethoxyhexyl)-cyclopentan-1,3,4-trione was reacted with diazomethane in ether according to conventional procedures to give 3.8 g of 2-(6'-carbethoxyhexyl)-3-methoxy-4-oxo-2-cyclopenten-1-one, b.p. 165°-170°C/0.4-0.6 mmHg.

reactant | 2-(6'-carboethoxyhexyl)-cyclopentan-1,3,4-trione | Five grams | C(=O)(OCC)CCCCCCC1C(CC(C1=O)=O)=O | C14H20O5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | 2-(6'-carbethoxyhexyl)-3-methoxy-4-oxo-2-cyclopenten-1-one | 3.8 g | C(=O)(OCC)CCCCCCC=1C(CC(C1OC)=O)=O | C15H22O5
